US07932272B2
2-(4-(3-Fluoro-phenoxy)-thiophen-2-yl)-[1.31dioxolane
2-(4-Bromo-thiophen-2-yl)-[1,3]dioxolane (1.0 g, 4.3 mmol), 3-fluorophenol (0.95 g, 8.6 mmol), 2,2,6,6-tetramethyl-3,5-heptanedione (0.078 g, 0.43 mmol), copper(I) chloride (0.21 g, 2.7 mmol) and cesium carbonate (2.8 g, 8.6 mmol) were suspended in N-methylpyrrolidone (10 mL) under a nitrogen stream, and the mixture was stirred for 4.5 hours at 120° C. To this suspension was added 2,2,6,6-tetramethyl-3,5-heptanedione (0.12 g, 0.65 mmol), and the solution was further stirred for 8 hours at 140° C. The reaction mixture was filtered through Celite pad, then, water and ethyl acetate were added for partitioning, and the organic layer was washed with water twice. NH silica gel was added to the organic layer, the solvent was evaporated in vacuo for adsorption to NH silica gel, purification was carried out by NH silica gel column chromatography (hexane, then hexane:ethyl acetate=30:1), and the title compound (280 mg, 1.05 mmol, 24.4%) was obtained as a colorless oil.

reactant | 2-(4-Bromo-thiophen-2-yl)-[1,3]dioxolane | 4.3 mmol, 1.0 g | BrC=1C=C(SC1)C1OCCO1 | C7H7BrO2S
reactant | 3-fluorophenol | 8.6 mmol, 0.95 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 0.43 mmol, 0.078 g | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | cesium carbonate | 8.6 mmol, 2.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 0.65 mmol, 0.12 g | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
solvent | N-methylpyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
catalyst | copper(I) chloride | 2.7 mmol, 0.21 g | [Cu]Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 2-(4-(3-Fluoro-phenoxy)-thiophen-2-yl)-[1.31dioxolane | 1.05 mmol, 280 mg, 24.4% | FC=1C=C(OC=2C=C(SC2)C2OCCO2)C=CC1 | C13H11FO3S
